US08202873B2
3′-m-Tolyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
Dissolve 3′-m-tolyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (3.3 g, 9.32 mmol) in DCM (10 mL). Add cold (from refrigerator) trifluoroacetic acid (42.6 g, 28.8 mL). Stir for 2 hr. at room temperature. Partition reaction mixture between methylene chloride and 5N NaOH (pH aqueous=14). Separate layers. Extract aqueous layer with methylene chloride (2×20 mL). Combine organic layers, dry over anh. sodium sulfate, filter and concentrate to give the title preparation (2.35 g, 99%). MS (ES): m/z=255 [M+H]+.

reactant | 3′-m-tolyl-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 9.32 mmol, 3.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C=1C=C(C=CC1)C | C20H26N4O2
reactant | trifluoroacetic acid | 28.8 mL, 42.6 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3′-m-Tolyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | C1(=CC(=CC=C1)C=1C(=NC=CN1)N1CCNCC1)C | C15H18N4
